US03936470
To a stirred solution of 12 parts of 2-[2-(4-methoxyphenyl)-ethyl]oxirane in 1.8 parts of sulfuric acid and 160 parts of 2-propanone are added 100 parts of water. The whole is stirred for 2 days at room temperature. The reaction mixture is stirred with a sodium bicarbonate solution and the product is extracted with trichloromethane. The extract is dried, filtered and evaporated, yielding 1-[2-(4-methoxyphenyl)ethyl]-1,2-ethanediol as a residue.

reactant | 2-[2-(4-methoxyphenyl)-ethyl]oxirane | COC1=CC=C(C=C1)CCC1OC1 | C11H14O2
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
reactant | 2-propanone | CC(C)=O | C3H6O
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | water | O | H2O
product | 1-[2-(4-methoxyphenyl)ethyl]-1,2-ethanediol | COC1=CC=C(C=C1)CCC(CO)O | C11H16O3
